US04109087
(b) 1-Ethyl-1,4-dihydro-4-oxo-N-phenyl-pyrimido[1,2-a]-benzimidazole-3-carboxamide
0.05 mol. of 1-ethyl-1,4-dihydro-4-oxo-pyrimido-[1,2-a]benzimidazole-3-carboxylic acid is refluxed with stirring in 100 ml. of thionyl chloride. After this time, the chlorinating agent is removed by distillation, the remaining acid chloride is treated with 50 ml. of toluene and again evaporated to dryness. After addition of 100 ml. of toluene, 0.1 mol. of aniline are added and the solution is stirred overnight. The solvent is distilled off and the residue treated with water and filtered. The product 1-ethyl-1,4-dihydro-4-oxo-N-phenyl-pyrimido[1,2-a]benzimidazole-3-carboxamide, is recrystallized from DMF, yield 73%; m.p. 268°-270°.

reactant | 1-ethyl-1,4-dihydro-4-oxo-pyrimido-[1,2-a]benzimidazole-3-carboxylic acid | C(C)N1C=C(C(N2C1=NC1=C2C=CC=C1)=O)C(=O)O | C13H11N3O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1-Ethyl-1,4-dihydro-4-oxo-N-phenyl-pyrimido[1,2-a]-benzimidazole-3-carboxamide | yield 73% | C(C)N1C=C(C(N2C1=NC1=C2C=CC=C1)=O)C(=O)NC1=CC=CC=C1 | C19H16N4O2
